US08975282B2
N-(4-((2-(3-ethyl-3-methylureido)pyridin-4-yl)oxy)-3-fluorophenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide
A mixture of phenyl (4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)pyridin-2-yl)carbamate (100 mg, 0.18 mmol), NMP (5 mL) and N-methylethanamine (12 mg, 0.2 mmol) was heated at 40° C. for 2 hours. The solvent was evaporated under reduced pressure at 40° C., and then diluted with water (10 mL). The precipitate was collected by filtration, and then purified by a silica gel column chromatography (DCM/MeOH (v/v)=60/1) to give the title compound as a white solid (55 mg, 62%).

reactant | phenyl (4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2-fluorophenoxy)pyridin-2-yl)carbamate | 0.18 mmol, 100 mg | CN1N(C(C(=C1C)C(=O)NC1=CC(=C(OC2=CC(=NC=C2)NC(OC2=CC=CC=C2)=O)C=C1)F)=O)C1=CC=CC=C1 | C30H24FN5O5
reactant | N-methylethanamine | 0.2 mmol, 12 mg | CNCC | C3H9N
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
product | N-(4-((2-(3-ethyl-3-methylureido)pyridin-4-yl)oxy)-3-fluorophenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 55 mg, 62% | C(C)N(C(NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O)F)=O)C | C27H27FN6O4
